* Kestrel VCO — Transistor-level range characterization (Xyce)
* IHP SG13G2 / SG13CMOS5L — 130nm SiGe BiCMOS, 1.2V low-voltage CMOS
*
* 4-stage differential Maneatis ring oscillator
* Sweep Vctrl from 0.2V to 1.0V, measure oscillation frequency
*

**********************************************************************
* Process models — IHP SG13G2 low-voltage CMOS (PSP)
*
* Requires IHP-Open-PDK installed at $PDK_ROOT/ihp-sg13g2.
* The cornerMOSlv library provides TT/SS/FF/SF/FS corners.
**********************************************************************
.LIB "/usr/local/src/pdks/ihp-sg13g2/ihp-sg13g2/libs.tech/xyce/models/cornerMOSlv.lib" mos_tt

**********************************************************************
* VCO subcircuits
**********************************************************************

* Maneatis delay cell — differential pair + symmetric load
.SUBCKT kestrel_delay_cell outp outn inp inn vctrl vbn vdd vss

* Tail current source (L=0.5u for analog matching)
Xtail  tail  vbn  vss  vss  sg13_lv_nmos W=4u L=0.5u

* Differential pair — sized for gm > gm_load to ensure oscillation
Xn1    outn  inp  tail vss  sg13_lv_nmos W=2u L=0.34u
Xn2    outp  inn  tail vss  sg13_lv_nmos W=2u L=0.34u

* Symmetric load (Maneatis) — diode + Vctrl-controlled PFET pair
Xp1a   outn  outn vdd  vdd  sg13_lv_pmos W=3u L=0.5u
Xp1b   outn  vctrl vdd vdd  sg13_lv_pmos W=3u L=0.5u
Xp2a   outp  outp vdd  vdd  sg13_lv_pmos W=3u L=0.5u
Xp2b   outp  vctrl vdd vdd  sg13_lv_pmos W=3u L=0.5u

.ENDS kestrel_delay_cell

* Self-biased replica bias generator (Maneatis)
* vbn is the replica output — negative feedback loop
.SUBCKT kestrel_vco_bias vbn vctrl vdd vss

* Diode NFET — mirrors tail current
Xrep_n   vbn  vbn  vss  vss  sg13_lv_nmos W=2u L=0.5u
* Diode PFET load (matches Xp1a/Xp2a in delay cell)
Xrep_pd  vbn  vbn  vdd  vdd  sg13_lv_pmos W=3u L=0.5u
* Vctrl-controlled PFET load (matches Xp1b/Xp2b in delay cell)
Xrep_pc  vbn  vctrl vdd vdd  sg13_lv_pmos W=3u L=0.5u
* Startup current to avoid degenerate vbn=0 solution
Istart vdd vbn 5u

.ENDS kestrel_vco_bias

* Ring oscillator VCO — 4-stage differential
.SUBCKT kestrel_vco outp outn vctrl_ext vdd vss

Xbias vbn vctrl_int vdd vss kestrel_vco_bias
Rsw vctrl_ext vctrl 1
Rbias vctrl_int vctrl 100k

Xstage0 dp_0 dn_0 dn_3 dp_3 vctrl vbn vdd vss kestrel_delay_cell
Xstage1 dp_1 dn_1 dp_0 dn_0 vctrl vbn vdd vss kestrel_delay_cell
Xstage2 dp_2 dn_2 dp_1 dn_1 vctrl vbn vdd vss kestrel_delay_cell
Xstage3 dp_3 dn_3 dp_2 dn_2 vctrl vbn vdd vss kestrel_delay_cell

Routp dp_3 outp 1
Routn dn_3 outn 1

.ENDS kestrel_vco

**********************************************************************
* Testbench
**********************************************************************
Vdd vdd 0 1.2
Vss vss 0 0

* Sweep control voltage via .STEP
Vctrl vctrl 0 {vctrl_val}
.PARAM vctrl_val = 0.6

Xvco outp outn vctrl vdd vss kestrel_vco

* Small cap load
Cload_p outp 0 10f
Cload_n outn 0 10f

* Differential output for frequency measurement
Ediff diff 0 outp outn 1.0

* Startup kick — inject asymmetric current to break symmetry
Ikick 0 Xvco:dp_0 PULSE(0 1m 0 50p 50p 10n 0)

**********************************************************************
* Transient analysis
**********************************************************************
.TRAN 50p 500n

* Print output waveform + bias voltage
.PRINT TRAN V(outp) V(outn) V(vctrl) V(Xvco:vbn) V(diff)

* Measure frequency from differential zero crossings
.MEASURE TRAN t1 WHEN V(diff)=0 RISE=3 TD=50n
.MEASURE TRAN t2 WHEN V(diff)=0 RISE=4 TD=50n
* f_vco = 1/(t2-t1), computed from measure output file

* Step Vctrl for range sweep (1.2V supply, so sweep up to ~1.0V)
.STEP vctrl_val 0.2 1.0 0.05

.END
